US05015655
(1-azabicyclo-[2,2,2]-octan-3-yl)-ethanone O-ethyloxime hydrochloride
1.9 g of 3-acetyl quinuclidine hydrochloride and 0.98 g of O-ethylhydroxylamine hydrochloride are heated for 20 minutes to reflux in 30 cm3 of methanol, followed by concentrating to dryness and purifying by chromatography on alumina (eluant: methylene chloride-methanol 9-1). The reaction medium is acidified using gaseous hydrochloric acid, then evaporated to dryness. After crystallizing from ethanol, filtering, and rinsing with ether, 1.3 g of expected product is recovered. M.p.=198°-200° C.

reactant | 3-acetyl quinuclidine hydrochloride | 1.9 g | Cl.C(C)(=O)C1CN2CCC1CC2
reactant | O-ethylhydroxylamine hydrochloride | 0.98 g | Cl.C(C)ON
solvent | methanol | 30 cm3 | CO | CH4O
product | (1-azabicyclo-[2,2,2]-octan-3-yl)-ethanone O-ethyloxime hydrochloride | Cl.C(C)ON=C(C)C1CN2CCC1CC2 | InChI=1S/C11H20N2O.ClH/c1-3-14-12-9(2)11-8-13-6-4-10(11)5-7-13;/h10-11H,3-8H2,1-2H3;1H
